US07202363B2
N-[4-(4-amino-7-{3-[(4-oxocyclohexyl)amino]prop-1-ynyl}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide
N-(4-{4-Amino-7-[3-(1,4-dioxaspiro[4.5]dec-8-ylamino)prop-1-ynyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.062 g, 0.099 mmol) in acetone was treated with 5N hydrochloric acid (5 mL). The reaction mixture was stirred for 15 hours at room temperature. Solid sodium carbonate and water were added to basify reaction mixture to pH 7. Ethyl acetate was added and the layers were partitioned. The aqueous layer was extracted with ethyl acetate. The organic layers were combined and dried over magnesium sulfate, filtered and evaporated under reduced pressure to give 0.024 g (41%) of the title compound. 1H NMR (DMSO-d6, 400 MHz) δ 9.51 (s, 1H), 8.01–7.98 (m, 2H), 7.70 (m, 1H), 7.62 (m, 2H), 7.35 (m, 2H), 7.21 (m, 1H), 7.19 (m, 1H), 7.10 (m, 1H), 5.85 (brs, 2H), 4.03 (s, 3H), 3.91 (s, 3H), 3.73 (s, 2H), 3.15 (m, 1H), 2.40–2.20 (m, 4H), 2.10 (m, 2H), 1.70 (m, 2H); LCMS (Conditions a) Rt 3.50 min (95%), M+ 578.4.

reactant | N-(4-{4-Amino-7-[3-(1,4-dioxaspiro[4.5]dec-8-ylamino)prop-1-ynyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.099 mmol, 0.062 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C#CCNC2CCC1(OCCO1)CC2 | C35H35N5O4S
reactant | hydrochloric acid | 5N, 5 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(4-amino-7-{3-[(4-oxocyclohexyl)amino]prop-1-ynyl}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | 0.024 g, 41% | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C#CCNC2CCC(CC2)=O | C33H31N5O3S
